US07173152B2
Generally, the procedure is as follows: under nitrogen gas, a stirred mixture of potassium thioacetate (e.g., about 3.71 g, 32.5 mmol), nitrobenzene (e.g., about 1 g, 8.1 mmol) and DMF (e.g., about 2.0 ml) is heated at about 130° C. After two hours, the reaction mixture is cooled to room temperature, brine (e.g., about 2 ml) is added and the resulting mixture is extracted with tert-butyl methyl ether (e.g., about 2×15 ml). The combined organic layer is washed with brine (e.g., about 2×4 ml) to remove residual DMF and filtered through a pad of charcoal and Celite to remove any residual sulfur. Evaporation of the solvent produced about 0.9 g of acetanilide (about 83%).

reactant | potassium thioacetate | 32.5 mmol, about 3.71 g | C(C)(=S)[O-].[K+]
reactant | nitrobenzene | 8.1 mmol, about 1 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | DMF | about 2.0 ml | CN(C)C=O | C3H7NO
solvent | brine | about 2 ml | [Cl-].[Na+].O
product | acetanilide | about 0.9 g, about 83% | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
